US05126367
N-[2-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]ethyl]tricyclo[3,3,1,1(3,7)]-decane-1-carboxamide
Adamantane-1-carboxylic acid (1.7 g, 10 mmole) was dissolved in 100 ml of dichloromethane and 3 drops of DMF added. Oxalyl chloride (2.0 ml, 23 mmole) was added and the mixture was stirred at room temperature for 2 hours. An additional 1.0 ml of oxalyl chloride (11.5 mmole) was then added, and stirring continued for 30 minutes. The mixture was concentrated to dryness in vacuum. 2-{N-(2-aminoethyl)]aminomethyl-2,3-dihydrobenzodioxin (2.1 g, 10 mmole) was dissolved in 100 ml of methylene chloride and 1.3 g (10 mmole) of diisopropylethylamine was added. To this mixture was added the acid chloride prepared above as a solution in 50 ml of dichloromethane. The addition was performed at 0° C. over 5 minutes. The mixture was then stirred overnight at room temperature. The reaction was next washed with saturated aqueous sodium bicarbonate, with saturated sodium chloride, dried over sodium sulfate, filtered and evaporated in vacuum. Column chromatography on 100 g of silica gel with chloroform as eluant, followed by crystallization from 100 ml of isopropanol with addition of 5 ml of 4N isopropanolic HCl and 400 ml of diethyl ether gave 1.3 g of the title compound as a monohydrochloride 1/4 hydrate, m.p. 147°-149° C.

reactant | Adamantane-1-carboxylic acid | 10 mmole, 1.7 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | Oxalyl chloride | 23 mmole, 2.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 11.5 mmole, 1.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-{N-(2-aminoethyl)]aminomethyl-2,3-dihydrobenzodioxin | 10 mmole, 2.1 g | NCCNCC1COC2=C(O1)C=CC=C2 | C11H16N2O2
reactant | diisopropylethylamine | 10 mmole, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[2-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]ethyl]tricyclo[3,3,1,1(3,7)]-decane-1-carboxamide | 1.3 g | O1C(COC2=C1C=CC=C2)CNCCNC(=O)C21CC3CC(CC(C2)C3)C1 | C22H30N2O3
